US07091352B2
1) 5-Ethoxycarbonyl-2-(4-fluorophenyl)-3-(pyridin-4-yl)thiophene
Phosphorus oxychloride (7.9 ml, 85 mmol) was added to dimethylformamide (17.04 ml, 220 mmol) dropwise under ice cooling. The resulting mixture was stirred at room temperature for 1 hour. The mixture was then added dropwise under ice cooling to a solution of 1-(4-fluorophenyl)-2-(pyridin-4-yl)ethanone (21.5 g (100 mmol), prepared as described in T. F. Gallagher et al., Bioorg. Med. Chem., 5, 49–64 (1997)) dissolved in a mixed solution of dimethylformamide (140 ml) and dichloromethane (280 ml). The resulting mixture was stirred at 50° C. for 2 hours. At the end of this time, the reaction mixture was cooled to room temperature, water was added, adjusted to pH 9 to 10 by adding an aqueous solution of 6 N sodium hydroxide and then extracted with dichloromethane. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was removed by distillation under reduced pressure. The residue was dissolved in a mixed solution of dichloroethane (100 ml) and pyridine (15 ml). To the resulting solution was added ethyl thioacetate (11 ml, 100 mmol), and then triethylamine (25 ml, 180 mmol) with stirring under ice cooling. The resulting mixture was stirred at room temperature for 1 hour, then 80° C. for 3 hours. The resulting mixture was cooled to room temperature and partitioned between water and dichloromethane. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel (eluent, hexane:ethyl acetate=2:3), to give the title compound (18.11 g) as a brown viscous oil (yield 55%).

reactant | Phosphorus oxychloride | 85 mmol, 7.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(4-fluorophenyl)-2-(pyridin-4-yl)ethanone | 100 mmol, 21.5 g | FC1=CC=C(C=C1)C(CC1=CC=NC=C1)=O | C13H10FNO
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
reactant | ethyl thioacetate | 100 mmol, 11 ml | C(C)(=S)OCC | C4H8OS
reactant | triethylamine | 180 mmol, 25 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 220 mmol, 17.04 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 280 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-Ethoxycarbonyl-2-(4-fluorophenyl)-3-(pyridin-4-yl)thiophene | 18.11 g, yield 55% | C(C)OC(=O)C1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C18H14FNO2S
